US05602253
4-(tert-butyloxycarbonylaminomethyl) pyridine
To a solution of 10.81 g (100 mmol) 4-aminomethyl pyridine in 100 ml THF was added 24 g (110 mmol) Boc2O dissolved in 70 ml THF at 10° C. for 20 minutes. The solution was allowed to reach room temperature and stirred for 4 h (a precipitate was formed during the reaction and the slurry became red). The solvent was removed and the residue was dissolved in EtOAc and filtered through silica gel. Evaporation of the solvent gave the title compound as a red oil which crystallized on standing. The crude product was used without further purification.

reactant | 4-aminomethyl pyridine | 100 mmol, 10.81 g | NCC1=CC=NC=C1 | C6H8N2
reactant | Boc2O | 110 mmol, 24 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 70 ml | C1CCOC1 | C4H8O
product | 4-(tert-butyloxycarbonylaminomethyl) pyridine | C(C)(C)(C)OC(=O)NCC1=CC=NC=C1 | C11H16N2O2
